US06969711B2
Acetyl nitrate obtained by mixing acetic anhydride (3.6 g, 36 mmol) with fuming nitric acid (2.16 g, 36 mmol) at 0° C. was dropped into a solution of dimethyl 3-hydroxyphthalate (3.8 g, 18 mmol) in acetonitrile (60 ml) at 0° C. followed by stirring for 40 minutes. The reaction solution was diluted with water and extracted with ether. The organic layer was washed with water and a saturated sodium chloride solution successively and dried over anhydrous magnesium sulfate and the solvent was evaporated therefrom. A 3:2 mixture (4.34 g; yield 94%) of dimethyl 3-hydroxy-4-nitrophthalate and dimethyl 3-hydroxy-6-nitrophthalatewas obtained as a yellow solid. This was used in the next reaction without separation and purification.

reactant | acetic anhydride | 36 mmol, 3.6 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | nitric acid | 36 mmol, 2.16 g | [N+](=O)(O)[O-] | HNO3
reactant | dimethyl 3-hydroxyphthalate | 18 mmol, 3.8 g | OC1=C(C(C(=O)OC)=CC=C1)C(=O)OC | C10H10O5
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | water | O | H2O
product | dimethyl 3-hydroxy-4-nitrophthalate | 4.34 g, yield 94% | OC1=C(C(C(=O)OC)=CC=C1[N+](=O)[O-])C(=O)OC | C10H9NO7
